US06057369
To a suspension of 60% NaH (1.2 g, 30 mmol) in anhydrous THF (30 mL) in an ice bath is added a solution of methyl 2-oxocyclopentanecarboxylate (4.26 g, 30 mmol) in 10 mL of THF dropwise over 5 minutes. The mixture is stirred at room temperature for 20 minutes. The mixture is cooled to -25° C. and 2.5 M n-butyllithium is added over 5 minutes (12 mL, 30 mmol). After stirring for 5 minutes, 1-bromo-3-phenylpropane (4.6 mL, 30 mmol) is added. The mixture is stirred at room temperature for 3 hours. The mixture is poured into water and is extracted with ether. The organic layer is washed with water and is dried over MgSO4. The solvent is removed in vacuo and the residue is chromatographed on silica gel (6:1 hexane:ethyl acetate) to afford methyl 2-oxo-3-(3-phenylpropyl-1-yl)cyclopentanecarboxylate (1 g, 13%): 1H-NMR (300 MHz, CDCl3) δ (TMS) 1.22-1.50 (m, 2H), 1.62-1.90 (m, 4H), 2.12-2.38 (m, 4H), 2.58-2.69 (m, 2H), 3.75 (s, 3H), 7.10-7.32 (m, 5H); MS (EI) m/e 260 (M+).

reactant | NaH | 30 mmol, 1.2 g | [H-].[Na+]
reactant | methyl 2-oxocyclopentanecarboxylate | 30 mmol, 4.26 g | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1-bromo-3-phenylpropane | 30 mmol, 4.6 mL | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | methyl 2-oxo-3-(3-phenylpropyl-1-yl)cyclopentanecarboxylate | 1 g, 13% | O=C1C(CCC1=CCCC1=CC=CC=C1)C(=O)OC | C16H18O3
